US09373792B2
In the atmosphere of argon, 17.0 g of benzo[b]naphtho[2,1-d]furan-5-boronic acid, 18.4 g of 3-bromoiodobenzene, 1.50 g of tetrakistriphenylphosphine palladium (0), 200 mL of toluene and 100 mL of a 2M aqueous sodium carbonate solution were placed in a flask. The resulting mixture was stirred with heating under reflux for 8 hours. After cooling to room temperature, the reaction solution was extracted with toluene. An aqueous phase was removed. An organic phase was dried with magnesium sulfate and concentrated. Residues were purified by silica gel column chromatography, whereby 21.8 g of 5-(3-bromophenyl)benzo[b]naphtho[2,1-d]furan was obtained.

reactant | benzo[b]naphtho[2,1-d]furan-5-boronic acid | 17.0 g | C1=CC=CC=2C(=CC=3C4=C(OC3C12)C=CC=C4)B(O)O | C16H11BO3
reactant | 3-bromoiodobenzene | 18.4 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-bromophenyl)benzo[b]naphtho[2,1-d]furan | 21.8 g | BrC=1C=C(C=CC1)C1=CC=2C3=C(OC2C=2C=CC=CC12)C=CC=C3 | C22H13BrO
